US04063926
A solution of 3,4,5-trichlorodifluoropyridine (21.8 g.) in dioxan (220 ml.) was refluxed with a solution of sodium hydroxide (8 g.) in water (40 ml.). After 2 hours a further 8 g. of sodium hydroxide in water (40 ml.) was added (4 molar equivalents of sodium hydroxide in toto). After a further 2 hours, water was added to produce a homogeneous solution which was acidified to precipitate the product (17.6 g., m.p. 170°-4°). After initial purification by charcoal and silica gel column, crystallisation from benzene gave 3,4,5-trichloro-6-fluoro-2-pyridone, m.p. 172°-6°(11.8 g.), having a pale yellow colour. After vacuum sublimation at 100°-120°, the white microcrystals melted at 173°-4° (10.65 g/.).

reactant | 3,4,5-trichlorodifluoropyridine | 21.8 g | ClC=1C(=NC(=C(C1Cl)Cl)F)F | C5Cl3F2N
reactant | sodium hydroxide | 8 g | [OH-].[Na+]
solvent | dioxan | 220 ml | O1CCOCC1 | C4H8O2
solvent | water | 40 ml | O | H2O
solvent | water | 40 ml | O | H2O
product | 3,4,5-trichloro-6-fluoro-2-pyridone | ClC=1C(NC(=C(C1Cl)Cl)F)=O | C5HCl3FNO
